US05610156
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-4'-(trifluoromethyl)[1,1'-biphenyl]-2-carboxamide
A solution of 1.14 g of [4'-(trifluoromethyl)[1,1'-biphenyl]-2-carbonyl chloride in 10 ml of methylene chloride is added dropwise to an ice cold solution of 1.0 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine and 0.52 g of N,N-diisopropylethylamine in 25 ml of methylene chloride. The reaction mixture is stirred at room temperature for 18 hours and washed with water, saturated aqueous NaHCO3 and the organic layer dried(Na2SO4). The organic layer is passed through a pad of hydrous magnesium silicate two times to give 1.70 g of the desired product as an amphorous compound.

reactant | 4'-(trifluoromethyl)[1,1'-biphenyl]-2-carbonyl chloride | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.0 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | N,N-diisopropylethylamine | 0.52 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-4'-(trifluoromethyl)[1,1'-biphenyl]-2-carboxamide | 1.70 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C33H24F3N3O2
